US05364866
A mixture of 1-(4-hydroxy-3-methoxyphenyl)phenylmethanone (14 g, 61.4 mmoles), K2CO3 (13 g, 92.1 mmoles), and 1,3-dibromopropane (28 g, 86 moles) in acetonitrile (400 ml) was heated at reflux for 4 hours. The reaction was followed by thin layer chromatography. At the end of the reaction, the inorganics were filtered off and the solvent was removed on a rotary evaporator. The residue was purified on a flash chromatographic column (SiO2, 140 g, eluted with 4:1 hexane:dichloromethane, 1.2 l) to give a partially solidified material: 15.44 g (72%). Recrystallization twice from ethanol gave 2.84 g of 1-[4-(3-bromopropoxy)-3-methoxyphenyl]phenylmethanone as white crystals, m.p.=88°-89° C.

reactant | 1-(4-hydroxy-3-methoxyphenyl)phenylmethanone | 61.4 mmoles, 14 g | OC1=C(C=C(C=C1)C1(CC=CC=C1)C=O)OC | C14H14O3
reactant | K2CO3 | 92.1 mmoles, 13 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,3-dibromopropane | 86 moles, 28 g | BrCCCBr | C3H6Br2
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | 1-[4-(3-bromopropoxy)-3-methoxyphenyl]phenylmethanone | 2.84 g | BrCCCOC1=C(C=C(C=C1)C1(CC=CC=C1)C=O)OC | C17H19BrO3
